US05804686
To a stirred solution of 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (100 mg, 0.6 mmol) and triethylamine (0.15 mL, 1.1 mmol) in N,N-dimethylformamide (5 mL) at 0° C. is added ethyl chloroformate (0.1 mL, 1.1 mmol). After stirring an additional 1 hour, 3-(N-trifluoroacetyl-(methylaminomethyl)aniline (0.3 g, 1.3 mmol ) is added. The reaction mixture is stirrred for 4 hours, then poured into saturated aqueous ammonium chloride and extracted 2× with ethyl acetate. The combined organic layers are washed sequentially with brine, aqueous 2N hydrochloric acid, then brine, dried over sodium sulfate, filtered, and concentrated in vacuo. To the residue is added 15% aqueous potassium bicarbonate (5 mL) and methyl alcohol (3 mL), then heated at reflux for 3 hours. After cooling, the reaction mixture is extracted with ethyl acetate, the organic layer dried over sodium sulfate, filtered, and concentrated in vacuo to give N-[3-(methylaminomethyl)phenyl]-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide. m.p. 130°-132° C.

reactant | 4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 0.6 mmol, 100 mg | O=C1C=2C(=CNC2CCC1)C(=O)O | C9H9NO3
reactant | triethylamine | 1.1 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.1 mmol, 0.1 mL | ClC(=O)OCC | C3H5ClO2
reactant | N-trifluoroacetyl-(methylaminomethyl)aniline | 1.3 mmol, 0.3 g | FC(C(=O)N(C1=CC=CC=C1)CNC)(F)F | C10H11F3N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[3-(methylaminomethyl)phenyl]-4-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | CNCC=1C=C(C=CC1)NC(=O)C1=CNC=2CCCC(C12)=O | C17H19N3O2
